US07674795B2
In a 25 ml autoclave, dissolve 330 mg of 4-fluoro-5-(3-methoxypropoxy)-2-nitrophenylamine, obtained in the previous stage, in 20 ml of ethanol, add 40 mg of 10% palladium-on-charcoal and then subject to an initial hydrogen pressure of 1 bar at 20° C. for 16 hours. After cooling, the volume of hydrogen absorbed is 91 ml. After filtration of the catalyst and then concentration to dryness under reduced pressure, we obtain 290 mg of 4-fluoro-5-(3-methoxypropoxy)benzene-1,2-diamine, in the form of a viscous black oil, which is used as it is in the following stage, with the following characteristic:

reactant | hydrogen | [H][H] | H2
reactant | 4-fluoro-5-(3-methoxypropoxy)-2-nitrophenylamine | 330 mg | FC1=CC(=C(C=C1OCCCOC)N)[N+](=O)[O-] | C10H13FN2O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 40 mg | [Pd] | Pd
product | 4-fluoro-5-(3-methoxypropoxy)benzene-1,2-diamine | 290 mg | FC=1C=C(C(=CC1OCCCOC)N)N | C10H15FN2O2
